US07723368B2
Step 1) 2-[3-(3-Bromo-phenyl)-cyclobutyl]-ethanol
[3-(3-Bromo-phenyl)-cyclobutylidene]-acetic acid ethyl ester (1.3 g, 4.48 mmol) was suspended in poly(ethylene glycol) (Average MW 400, 15 mL) and sodium borohydride (650 mg, 17.2 mmol) was added portionwise. The slurry was warmed to 67° C. for one hour, then cooled to room temperature and partitioned between 2N hydrochloric acid and diethylether. The ether extracts were purified by column chromatography (EtOAc in hexanes) to afford 584 mg of an oil (52%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.19-1.29 (m, 1H) 1.31-1.38 (m, 1H) 1.47-1.52 (m, 1H) 1.59-1.68 (m, 1H) 1.97-2.32 (m, 2H) 2.34-2.41 (m, 1H) 4.22-4.31 (m, 1H) 3.23-3.39 (m, 3H) 7.15-7.24 (m, 2H) 7.29-7.38 (m, 2H); MS (EI) m/z 254 [M+·].

reactant | [3-(3-Bromo-phenyl)-cyclobutylidene]-acetic acid ethyl ester | 4.48 mmol, 1.3 g | C(C)OC(C=C1CC(C1)C1=CC(=CC=C1)Br)=O | C14H15BrO2
reactant | sodium borohydride | 17.2 mmol, 650 mg | [BH4-].[Na+]
product | 2-[3-(3-Bromo-phenyl)-cyclobutyl]-ethanol | 584 mg, 52% | BrC=1C=C(C=CC1)C1CC(C1)CCO | C12H15BrO
